Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Unresponsive, hypothermia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male brought in by EMS after being found sleeping 
under a car, cold, wet and concern for hypothermia. History is 
obtained from ___ providers and ___ chart as patient refuses to 
speak to me. In the ___, he refused to answer questions unless he 
was given food, and then subsequently developed fluent speech 
with prolonged hyperreligious conversations. He refuses to 
identify himself. He was able to walk to the bathroom with a 
steady gait, had no evidence of trauma, and repeatedly asked for 
food. He repeatedly states that it was against his religion to 
come to the ER, he did not ask for help. He told the RN "I trust 
no one, I don't trust what you are telling me."  
Initial vitals were 95.6 (orally), 72, 144/78, 16, 100% RA. He 
was treated with 5 mg Haldol and 2 mg Ativan at 10:30 pm and put 
in 4 point restraints in order to get lab draw and place IVF,and 
foley. He received 3+ liters of Normal saline and labs 
demonstrated rhabdomyolysis. 4 point restraints removed at 3:15 
am. He was transferred to the floor for further management of 
rhabdomyolysis. Psychiatry consulted, no note/recs available 
currently. Tox screen negative.  

 
Past Medical History:
Per review of records, patient with known schizo-affective 
disorder and bipolar disorder
 
Social History:
___
Family History:
not obtainable
 
Physical Exam:
Temp: 99.6, 136/72, 88, 20, 98% RA  

GEN: lying prone on bed, sitter at bedside. refuses to open 
eyes/answer questions, or cooperate with exam. Well appearing.  
HEENT: refuses to open eyes  
CV: refuses  
PULM: CTA-bilaterally  
ABD: refuses  
EXT: moves all extremities, head, neck to turn away from 
interviewer and to indicate irritation. Bottom of feet with 
dry/scaling patches  

 
Pertinent Results:
==================
  ADMISSION LABS
==================

WBC-12.8* RBC-4.73 Hgb-13.6* Hct-39.1* MCV-83 MCH-28.9 MCHC-34.9 
RDW-12.8 Plt ___
Neuts-81.3* Lymphs-12.7* Monos-4.8 Eos-0.9 Baso-0.4

___ PTT-26.8 ___
Glucose-92 UreaN-20 Creat-1.0 Na-135 K-3.5 Cl-100 HCO3-18* 
AnGap-21*

___
ALT-126* AST-251* LD(LDH)-701* CK(CPK)-9601* AlkPhos-83 
TotBili-0.4

ALT-141* AST-187* LD(LDH)-756* CK(CPK)-5715* AlkPhos-96 
Amylase-256* TotBili-0.4

ALT-101* AST-96* LD(LDH)-508* CK(CPK)-2812* AlkPhos-97 
TotBili-0.3
CK-MB-96* MB Indx-0.6 cTropnT-<0.01
Albumin-3.2* Calcium-7.8* Phos-2.4* Mg-2.6
VitB12-531 Folate-10.3
Osmolal-292
HBsAg-NEGATIVE HBsAb-NEGATIVE HBcAb-NEGATIVE HAV Ab-NEGATIVE
ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG 
Tricycl-NEG

=============
  RADIOLOGY
=============

CT HEAD WITHOUT INTRAVENOUS CONTRAST: There is no acute 
intracranial hemorrhage, infarct in major vascular territory, 
shift of normally midline structures, loss of ___ matter 
junction differentiation, or abnormality in size or contour of 
ventricles, sulci and cisterns. There are no obvious osseous 
abnormalities and the mastoid air cells are clear. There is a 
retention cyst in the left sphenoid sinus. The other visualized 
paranasal sinuses are clear.

IMPRESSION: No acute intracranial process; MR is more sensitive 
for detection of acute stroke
 
Brief Hospital Course:
___ year old male found down, presenting with rhabdomyolisis and 
anion gap metabolic acidosis, exhibiting psychotic features, 
clinically stable. Patient placed on psychiatric monitoring with 
sitter as he was ___. In spite of precautions, patient 
escaped and "CODE ___ was called, police department notified.

Below is the medical course up to his escape.
. 
# Rhabdomyolisis - Likely from hypothermia. Patient was 
hypothermic and found was down for an undetermined period of 
time, making this the most likely etiology. Patient did not have 
any crush injuries or evidence of ingestion. Toxicology screen 
was negative. Patient was agressively hydrated and improved from 
CK greater than 15,000 at admission to 2812 at time of 
elopement. Patient did not have any evidence of renal impairment 
with creatinine at 0.9.

# Psychosis - Initially at admission, patient was very agressive 
and uncooperative; his real name and identifier information 
remained unknown for > 12 hrs after admission. With the help of 
the psychiatry service, further data was collected. Mr ___ has 
a long history of schizoaffective disorder and bipolar disorder, 
with several hospitalizations. Patient remained hyper-religious 
and uncooperative during his stay and required assistance of 
security to administer intra-muscular anti-psychotics to keep 
him from harming self. 
Head CT performed, with no acute intracraneal process. Patient 
needs long term psychiatric facility for further management. 
  
#. Metabolic acidosis: Noted at admission in the setting of 
likely starvation and prolonged period of unresponsiveness.  
  
#. Transaminase elevation: Pattern suggestive of alcohol abuse, 
although patient denies. Hepatitis serologies negative. Would 
avoid hepatically cleared antipsychotics. Patient will need work 
up after psychiatric stabilization. 

Despite a sitter the patient escaped and left the ward. 
Psychiatry has notified the police as well. At time of this 
discharge summary, the patient was brought back by the police to 
the ___ ER. Refer to OMR for the discharge summary related to 
that admission. 
 
Medications on Admission:
None
 
Discharge Medications:
patient eloped
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
RHABDOMYOLISIS
SCHIZOAFFECTIVE DISORDER
Hypothermia

 
Discharge Condition:
PATIENT ELOPED
 
Discharge Instructions:
PATIENT ELOPED
 
Followup Instructions:
___